US08283353B2
ethyl ({trans-4-[6-{[5-(2-cyanophenyl)thiophen-2-yl]methyl}-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl]cyclohexyl}oxy)acetate
To a mixture of 2-(5-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}thiophen-2-yl)benzonitrile (0.4 g), rhodium(I) acetate (0.0019 g) and toluene (10 mL) was added dropwise ethyl diazoacetate (0.46 mL) at 80° C., and the mixture was stirred at the same temperature for 1 hr. The reaction mixture was concentrated, and the obtained residue was subjected to silica gel column chromatography to give the title compound as a colorless solid (0.25 g, 53%).

reactant | 2-(5-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}thiophen-2-yl)benzonitrile | 0.4 g | O[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(S1)C1=C(C#N)C=CC=C1)CCC)N=CN2 | C26H27N5O2S
reactant | ethyl diazoacetate | 0.46 mL | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
catalyst | rhodium(I) acetate | 0.0019 g | C(C)(=O)[O-].[Rh+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl ({trans-4-[6-{[5-(2-cyanophenyl)thiophen-2-yl]methyl}-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl]cyclohexyl}oxy)acetate | 0.25 g, 53% | C(#N)C1=C(C=CC=C1)C1=CC=C(S1)CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OCC(=O)OCC)=O | C30H33N5O4S
